US04922022
(a) 6-(2-Cyclohexylethylamino)-6-oxohexanoic acid
Methyl 5-[chloroformyl]pentanoate (4.2 g) in dry dichloromethane (20 ml) was added dropwise to a stirred solution of 2-cyclohexylethylamine (3 g) and triethylamine (3.3 ml) in dry dichloromethane (40 ml) under a N2 atmosphere. The mixture was stirred at room temperature for 16 hours and heated under reflux for 1.5 hours.

reactant | Methyl 5-[chloroformyl]pentanoate | 4.2 g | ClC(=O)CCCCC(=O)OC | C7H11ClO3
reactant | 2-cyclohexylethylamine | 3 g | C1(CCCCC1)CCN | C8H17N
reactant | triethylamine | 3.3 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 6-(2-Cyclohexylethylamino)-6-oxohexanoic acid | C1(CCCCC1)CCNC(CCCCC(=O)O)=O | C14H25NO3
